US09085540B2
A mixture of 5-(5-amino-2-fluorophenoxy)-3-{[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]amino}-6-(2-hydroxypropan-2-yl)pyrazine-2-carboxamide (515 mg), diisopropylethylamine (409 μL), and N-methylpyrrolidone (3 mL) was reacted in a microwave reaction device at 200° C. for 4 hours. The mixture was purified by silica gel column chromatography (eluent; chloroform:methanol=98:2-90:10) to obtain 5-(5-amino-2-fluorophenoxy)-3-{[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]amino}-6-(prop-1-en-2-yl)pyrazine-2-carboxamide (408 mg) as a yellow solid.

reactant | 5-(5-amino-2-fluorophenoxy)-3-{[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]amino}-6-(2-hydroxypropan-2-yl)pyrazine-2-carboxamide | 515 mg | NC=1C=CC(=C(OC=2N=C(C(=NC2C(C)(C)O)C(=O)N)NC=2C=NN(C2)CCO)C1)F | C19H22FN7O4
reactant | diisopropylethylamine | 409 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N-methylpyrrolidone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | 5-(5-amino-2-fluorophenoxy)-3-{[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]amino}-6-(prop-1-en-2-yl)pyrazine-2-carboxamide | 408 mg | NC=1C=CC(=C(OC=2N=C(C(=NC2C(=C)C)C(=O)N)NC=2C=NN(C2)CCO)C1)F | C19H20FN7O3
